US08008298B2
3,3,3-Trifluoro-2-methyl-2-trifluoromethyl-propionaldehyde
3,3,3-Trifluoro-2-methyl-2-trifluoromethyl-propan-1-ol, 1 gm, 5.1 mM, and Dess-Martin Periodinane, 4.3 gm, 10.2 mM, 2 eq. was added to ten ml of 1,1,1,3 tetrachloroethane and the mixture stirred for several hours. A short path distillation head was added and the receiver flask was cooled in dry ice-acetone bath. The mixture was heated to 100° C. and the pressure lowered to 180 Ton. The desired product 3,3,3-Trifluoro-2-methyl-2-trifluoromethyl-propionaldehyde condensed in the receiver flask and was used without further purification in the above reaction.

reactant | 3,3,3-Trifluoro-2-methyl-2-trifluoromethyl-propan-1-ol | FC(C(CO)(C(F)(F)F)C)(F)F | C5H6F6O
reactant | Dess-Martin Periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
product | 3,3,3-Trifluoro-2-methyl-2-trifluoromethyl-propionaldehyde | FC(C(C=O)(C(F)(F)F)C)(F)F | C5H4F6O
